US04149413
Step A7: The production of 4'-bromo-4-hydroxybiphenyl.
One example of a way of carrying out this Step is by a standard method using sodium hydroxide to hydrolyse commercially available 4'-bromo-4-benzene-sulphonyloxybiphenyl in a mixture of water and dioxan as solvent. The colourless crystals obtained by crystallisation of the product from ethanol have a melting point of 166° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4'-bromo-4-benzene-sulphonyloxybiphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=CC=C1 | C18H13BrO3S
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 4'-bromo-4-hydroxybiphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
